US08293777B2
1-chloroethyl (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate
To a d-chloroform (60 mL) solution of (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentane carboxylic acid (4.59 g, 22.4 mmol) was added oxalyl chloride (2.40 mL, 27.4 mmol), followed by a few drops of N,N-dimethylformamide. After 60 minutes, 1H-NMR showed that the reaction was complete. To this reaction mixture was added zinc chloride (0.31 g, 2.27 mmol). The suspension was cooled to 0° C., and a d-chloroform solution (10 mL) of acetaldehyde (2.6 mL, 46.0 mmol) was slowly added to the reaction mixture over 5 minutes. The reaction was warmed up to room temperature and stirred for 17 hours. 1H-NMR confirmed that the starting acid chloride has been consumed and most of the material was converted to the desired product. The reaction mixture was concentrated in vacuo, and chromatography of the residue over silica gel, eluting with 2/98→20/80 ethyl acetate/hexanes, afforded the title compound as a colorless liquid. 1H NMR (500 MHz, CDCl3) δ 1.80 (d, J=5.9 Hz, 3H), 2.04-2.14 (m, 2H), 2.28-2.36 (m, 1H), 2.50-2.60 (m, 1H), 3.01 (quintet, J=8.3 Hz, 1H), 3.37 (s, 3H), 3.81-3.85 (m, 1H), 5.26-5.31 (m, 1H), 6.54 (q, J=5.8 Hz, 1H, D1), 6.54 (q, J=5.9 Hz, 1H, D2).

reactant | (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentane carboxylic acid | 22.4 mmol, 4.59 g | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)O | C7H11NO6
reactant | oxalyl chloride | 27.4 mmol, 2.40 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetaldehyde | 46.0 mmol, 2.6 mL | C(C)=O | C2H4O
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
catalyst | zinc chloride | 2.27 mmol, 0.31 g | [Cl-].[Zn+2].[Cl-]
product | 1-chloroethyl (1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentanecarboxylate | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)OC(C)Cl | C9H14ClNO6
